US07982036B2
To a stirred solution of tert-butyl 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)pyrrolidin-1-carboxylate (0.1 g, 0.2 mmol) in dry CH2Cl2 (2.0 mL) at 0° C. was added CF3COOH (2 mL, 20 vol.) and the reaction mixture was kept at this temperature for 30 min. It was allowed to come to rt and stir at this temperature for 3 h. The reaction mixture was concentrated under reduced pressure and the residue was quenched with water (2 mL), basified with NaHCO3 solution, and was extracted with ethyl acetate (2×8 mL). The combined ethyl acetate extract was washed with water (2 mL) and brine (2 mL), was dried over Na2SO4 and was concentrated under reduced pressure to give N4-(4-phenoxyphenyl)-N6-(pyrrolidin-3-yl)pyrimidine-4,6-diamine (0.025 g, 32.4%) as a light a brown solid.

reactant | tert-butyl 3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)pyrrolidin-1-carboxylate | 0.2 mmol, 0.1 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC(=NC=N1)NC1CN(CC1)C(=O)OC(C)(C)C | C25H29N5O3
reactant | CF3COOH | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
product | N4-(4-phenoxyphenyl)-N6-(pyrrolidin-3-yl)pyrimidine-4,6-diamine | 0.025 g, 32.4% | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=NC=NC(=C1)NC1CNCC1 | C20H21N5O
